Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
unresponsive, incontinent of urine
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ervilise ___ is an ___ year old ___ speaking 
woman with history of HTN, T2DM, dementia recently discovered 
stroke of unclear etiology, who presents as an OSH transfer 
after an event concerning for seizure.

History is obtained from the daughter at bedside. According to 
her, the patient woke up this morning more or less her usual 
self. She did complain that she "felt unwell" but her mother 
typically says this every day, so she did not mind all that 
much. The daughter left her mother's room briefly for about 30 
minutes to get breakfast ready, but when she returned, she found 
her mother lying on the bed, prone, with her legs dangling off 
to the side of the bed, incontinent of urine. She appeared to be 
unresponsive and would barely arouse despite aggressive 
stimulation. EMS was called, and she was taken to an OSH 
hospital. CT was unremarkable, and initial lab work was notable 
for a lactate of 9.6. She continued to be minimally responsive, 
and she was subsequently given 2mg IV Ativan and loaded with 
1000mg IV keppra. No seizure activity was seen. She did appear 
to perk up a little, but eventually became somnolent again. 
Prior to transfer to BI, however, she was reported to be 
somewhat agitated at this time, and received 2mg of IV 
haloperidol.

In the ED, she was noted to be somnolent and barely arousable to 
deep sternal rub. She was afebrile. Repeat lactate was 
normalizing. Remainder of the workup for infectious etiology was 
unremarkable, including a repeat CXR. No additional seizures 
were seen. Of note, after the initial evaluation, she was noted 
to be more awake, and per her daughter she opened her eyes in 
the
afternoon to talk to her daughter briefly before going back to 
sleeping.

Of note, she has had ongoing cognitive decline for some time. 
She recently underwent an MRI of the brain (1 month ago) which 
incidentally discovered 2 previous strokes. CT from OSH 
confirmed bilateral parieto-occipital infarcts. She was supposed 
to see a neurologist for this, but has not done so yet. Unclear 
what kind of work up she has had. 
 
Past Medical History:
HTN, T2DM (NIDDM), GERD, dementia recently seen 
 
Social History:
___
Family History:
No significant neurologic history.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vitals: T 98.3   P 67   BP 171/83   RR 16   O2 98% RA 
General: somnolent, briefly opens eyes and looks around with
stimulation but falls back asleep, with constant sternal rub she
can maintain about 30 seconds of awakefulness
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: somnolent, as above. at times, she was reported
to be more awake and conversant with daughter, but this was not
witnessed by myself
- Cranial Nerves: PERRL 3->2 brisk. no roving eye movements. no
clear BTT either eye. no facial asymmetry. 

- Sensorimotor: moves all four extremities spontaneously
antigravity, and yells with noxious stimulation
 
- Reflexes: Plantar response flexor bilaterally 

- Coordination/Gait: deferred

DISCHARGE PHYSICAL EXAM
=======================
General: Slightly somnolent, mostly kept eyes closed but opened
to command
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic:

-Mental Status: Slightly somnolent but awake, alert, and
conversant with team and daughter in ___. Not 
oriented
to year or place, identifies ___. Follows simple commands.
Unable to say ___ backwards. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in left trapezii and SCM bilaterally, right
testing limited secondary to shoulder pain.
XII: Tongue protrudes in midline.

-Motor: Moves all four extremities spontaneously antigravity. No
adventitious movements, such as tremor, noted. 

  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc 
L  5    ___   ___  5   5    5  5     5     
R  *    *   *   ___  ___    5  5     5   
* exam limited secondary to right shoulder pain

-Sensory: No deficits to light touch throughout. No extinction 
to
DSS.

-DTRs: ___ response was withdrawal bilaterally.

-Coordination/Gait: Deferred.
 
Pertinent Results:
ADMISSION LABS
==============
___ 07:10AM BLOOD WBC-6.8 RBC-4.80 Hgb-10.9* Hct-37.7 
MCV-79* MCH-22.7* MCHC-28.9* RDW-14.5 RDWSD-41.2 Plt ___
___ 07:10AM BLOOD ___ PTT-22.3* ___
___ 07:10AM BLOOD Glucose-141* UreaN-9 Creat-0.7 Na-139 
K-4.5 Cl-103 HCO3-27 AnGap-9*
___ 12:07PM BLOOD Glucose-260* UreaN-13 Creat-0.9 Na-138 
K-5.5* Cl-99 HCO3-20* AnGap-19*
___ 07:10AM BLOOD ALT-8 AST-13 LD(LDH)-160 AlkPhos-93 
TotBili-0.5
___ 12:07PM BLOOD Lipase-36
___ 12:07PM BLOOD Albumin-4.5 Calcium-9.6 Phos-3.6 Mg-2.1
___ 07:10AM BLOOD %HbA1c-8.5* eAG-197*
___ 12:13PM BLOOD Lactate-5.4* K-5.2*

IMAGING:
========
CT HEAD (OSH): 
Bilateral parietal infarcts, chronic appearing.

CTA HEAD AND NECK (___):
No evidence of stenosis, occlusion, or aneurysm of the vessels 
of
the circle of ___. Evaluation of the neck vessels is limited
by artifact and contrast bolus timing. Within this limitation, 
no
definite evidence of stenosis or occlusion of the carotid or
vertebral arteries. Final read pending.

CXR (___): 
Relatively low lung volumes.  Subtle bibasilar opacities could 
be
due to atelectasis or aspiration.

EEG (___): Official read pending. Generalized slowing with no 
seizure activity

TTE ___
No structural cardiac source of embolism (e.g.patent foramen 
ovale/atrial septal defect, intracardiac thrombus, or 
vegetation) seen. Mild symmetric left ventricular hypertrophy 
with normal cavity size, and hyperdynamic regional/global 
systolic function. No valvular pathology or pathologic flow 
identified.

DISCHARGE LABS
==============
___ 06:40AM BLOOD WBC-6.4 RBC-4.88 Hgb-11.2 Hct-38.7 
MCV-79* MCH-23.0* MCHC-28.9* RDW-14.6 RDWSD-41.4 Plt ___
___ 06:40AM BLOOD Plt ___
___ 06:40AM BLOOD Glucose-143* UreaN-15 Creat-0.7 Na-142 
K-4.2 Cl-102 HCO3-28 AnGap-12
___ 06:40AM BLOOD Calcium-9.4 Phos-4.2 Mg-1.7
___ 06:40AM BLOOD TSH-0.38
___ 06:40AM BLOOD T4-6.3 T3-___rvilise ___ is an ___ year old ___ speaking 
woman with history of HTN, T2DM, dementia, and two prior strokes 
of unclear etiology (found incidentally, bilateral 
parieto-occipital) who presented as an OSH transfer after being 
found down at home with urinary incontinence, most like with 
first time seizure. 

#Seizure:
Found at home in bed, legs prone, incontinent of urine, 
unresponsive. This event was unwitnessed, lasted < 30 minutes. 
EMS called and transferred to OSH. There, she received 2 mg IV 
Ativan, loaded with 1000 mg IV keppra, followed by 2 mg IV 
haloperidol for "agitation". Workup there notable for lactate of 
9.6, otherwise unremarkable. Transferred to ___, where initial 
exam was notable for somnolence with no focal deficits, likely 
from sedatives. Slowly became less somnolent and returned to 
baseline mental status, lactate normalized. Toxic metabolic 
workup was otherwise unremarkable, head imaging (CTA head and 
neck) with no evidence of acute process, TTE unremarkable. EEG 
revealed generalized slowing with no seizure activity, although 
may have been pharmacologically masked. Overall, presenting 
event was most likely seizure, especially given history of 
strokes which may provide area of focality. Initiated keppra 750 
mg BID which she should continue indefinitely. At the time of 
discharge, remained at her baseline mental status, confirmed by 
her daughter. Her daughter refused rehab, able to provide full 
time care, discharged home with outpatient physical therapy.

TRANSITIONAL ISSUES:
====================
[] Please continue to titrate diabetes medication regimen, HbA1c 
8.5% (goal ~8)
[] Initiated keppra 750 mg BID
[] f/u blood culture pending at discharge

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 1000 mg PO BID 
2. Aspirin 81 mg PO DAILY 
3. lisinopril-hydrochlorothiazide ___ mg oral DAILY 
4. amLODIPine 10 mg PO DAILY 
5. Pantoprazole 40 mg PO DAILY 

 
Discharge Medications:
1.  LevETIRAcetam 750 mg PO BID  
2.  amLODIPine 10 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  lisinopril-hydrochlorothiazide ___ mg oral DAILY  
5.  MetFORMIN (Glucophage) 1000 mg PO BID  
6.  Pantoprazole 40 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Seizure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Lethargic but arousable.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at the ___ 
___.

WHY DID I COME TO THE HOSPITAL?
--Your daughter found you on your bed, not responding. This was 
concerning for a seizure.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
--We monitored you for seizures. You did not have any seizures 
in the hospital. However we believe your event of 
unresponsiveness at home was most likely a seizure. Because of 
this, you were started on a new anti-seizure medication called 
Keppra which will help prevent you from developing seizures in 
the future.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
--Please continue to take your medications as prescribed and 
follow-up with your doctors as ___.

We wish you all the best,
Your ___ care team.
 
Followup Instructions:
___